US03931196
A mixture of divinylphenylphosphine oxide (0.40g, 2.24 mmol) and aqueous methylamine (2.6 ml of 1M = 2.7 mmol) was heated under reflux for 30 min. The aqueous solution was cooled, saturated with ammonium chloride, and extracted with chloroform. Bulb to bulb distillation of the product at 140°/0.005 mm gave 1-methyl-4-oxo-4-phenylperhydro-1,4-azaphosphorine (0.46g, 98%), as colourless hydroscopic crystals, m.p. 115°-116°. The m.p. was not raised by recrystallization from anhydrous benzene, cyclohexane (1:3). The purity of this material was confirmed by t.l.c. (chloroform-methanol (3:1)). A freshly dried sample (80°/5 mm over P2O5) gave slightly low carbon and phosphorus values owing to rapid uptake of water prior to analysis (Found: C, 62.6; H, 7.8; P, 14.6. C11H16NOP requires C, 63.2; H, 7.7; P, 14.8%). Mol. wt. (Mass spectrum), 209. Infrared spectrum νmax (Nujol): 2820 (N--CH2), 1590, 1460 (C6H5 --P), 1410, 1380, 1320, 1265, 1170, (P=O), 1110, 1065, 990, 960, 925, 810, 760, 725, 705, 665 cm-1. N.m.r. spectrum (CDCl3): 7.82, dm, 2H (o-aromatic); 7.4-7.7, m, 3H (m- and p-aromatic); 2.6-3.3, m, 4H (methylenes); 2.36, s, 3H (methyl); 1.8-2.5, m, 4H (methylenes). A sample which had been exposed to the atmosphere for a few min showed additional broad absorption bands at 3400 and 1630 cm-1 in the i.r. spectrum, and additional sharp singlets at δ3.06 and 4.62 (exchanged by D2O) in the n.m.r. spectrum.

reactant | divinylphenylphosphine oxide | 2.24 mmol, 0.40g | C(=C)P(C1=CC=CC=C1)(C=C)=O | C10H11OP
reactant | methylamine | 2.7 mmol, 1M, 2.6 ml | CN | CH5N
reactant | ammonium chloride | [Cl-].[NH4+]
product | 1-methyl-4-oxo-4-phenylperhydro-1,4-azaphosphorine | 0.46g, 98% | CN1CCP(CC1)(C1=CC=CC=C1)=O | C11H16NOP
